US07662974B2
Preparation of 3-(1-hydroxy-1-phenylethyl)dihydrofuran-2-(3H)-one
Under argon atmosphere, 39.7 mL (4.43 mmol, 1.5 equivalents) of the solution of 2-bromozinc-γ-butyrolactone in tetrahydrofuran obtained in Example 61 was added dropwise to a solution of 1.25 mL (10.7 mmol) of acetophenone in 10 mL of THF at 6˜8° C. The mixture was stirred at 4˜6° C. for 4 hours. 15 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 50 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 10 mL of 1N hydrochloric acid, 10 mL of water, 20 ml, 15 mL and 10 mL of an aqueous saturated sodium bicarbonate solution, and 10 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure, purification with silica gel column (developing solvent; ethyl acetate/n-hexane=1/3, 1/2, 1/1) afforded 1.88 g of the desired product (NMR yield 62.5%; internal standard dioxane). 0.92 g of the desired product was obtained as crystals (yield 42%).

reactant | acetophenone | 10.7 mmol, 1.25 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | hydrochloric acid | 1N, 15 mL | Cl | ClH
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(1-hydroxy-1-phenylethyl)dihydrofuran-2-(3H)-one | 1.88 g, yield 62.5% | OC(C)(C1=CC=CC=C1)C1C(OCC1)=O | C12H14O3
